### PR TITLE
[Merged by Bors] - feat: add IsNowhereDense.union

### PR DESCRIPTION
**Pull request by mcallisto**
Adding `IsNowhereDense.union`, `IsNowhereDense.biUnion` and `IsNowhereDense.iUnion`. Filling the gap with `IsMeagre`. Finiteness is sharp, since the union of infinite nowhere dense sets can be strictly bigger (example: the union of all fractions). No new imports.

---
  - The mathematical argument is Anatole Dedecker's from Zulip; the fractions observation is Aaron Liu's.
  - Zulip link: https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/IsNowhereDense.20union.20lemma/with/619131446.                                                          
  - Strong help from Claude Opus 5 to find the (hopefully) correct solution.                                                                            
  - I'll drop biUnion/iUnion if only the binary version is wanted.                        

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mcallisto** [comment]
LLM-generated

File: Mathlib/Topology/GDelta/Basic.lean [hunk 1]
```diff
@@ -209,6 +209,34 @@ lemma isNowhereDense_empty : IsNowhereDense (∅ : Set X) := by
...
+  rw [IsNowhereDense, closure_union]
+  have h1 : interior (closure s ∪ closure t) ⊆ closure s := by
+    simpa [ht'] using isClosed_closure.interior_union_left (s := closure s) (t := closure t)
+  exact Set.eq_empty_of_subset_empty (hs ▸ interior_maximal h1 isOpen_interior)
+
+/-- A union over a `Finset` of nowhere dense sets is nowhere dense. -/
+protected lemma IsNowhereDense.biUnion {u : Finset ι} {f : ι → Set X}
+    (hf : ∀ i ∈ u, IsNowhereDense (f i)) : IsNowhereDense (⋃ i ∈ u, f i) := by
+  classical
+  induction u using Finset.induction with
```
Comment (pechersky) [inline Mathlib/Topology/GDelta/Basic.lean]: One can use cons_induction instead of having to activate classical

File: Mathlib/Topology/GDelta/Basic.lean [hunk 2]
```diff
@@ -209,6 +209,34 @@ lemma isNowhereDense_empty : IsNowhereDense (∅ : Set X) := by
...
 
+/-- The union of two nowhere dense sets is nowhere dense. -/
+protected lemma IsNowhereDense.union {s t : Set X} (hs : IsNowhereDense s)
+    (ht : IsNowhereDense t) : IsNowhereDense (s ∪ t) := by
+  -- `simp` will not unfold the `IsNowhereDense` definition, so restate `ht` as an equation
+  have ht' : interior (closure t) = ∅ := ht
+  rw [IsNowhereDense, closure_union]
+  have h1 : interior (closure s ∪ closure t) ⊆ closure s := by
+    simpa [ht'] using isClosed_closure.interior_union_left (s := closure s) (t := closure t)
+  exact Set.eq_empty_of_subset_empty (hs ▸ interior_maximal h1 isOpen_interior)
```
Comment (pechersky) [inline Mathlib/Topology/GDelta/Basic.lean]: Would simp use `IsNowhereDense.eq_def`?

Comment (mcallisto) [reply Mathlib/Topology/GDelta/Basic.lean]: Good suggestion, thanks, I am checking how to rewrite the hypotheses with it.

Comment (acmepjz) [reply Mathlib/Topology/GDelta/Basic.lean]:
```suggestion
  simp only [IsNowhereDense, closure_union] at ht ⊢
  have h1 : interior (closure s ∪ closure t) ⊆ closure s := by
    simpa [ht] using isClosed_closure.interior_union_left (s := closure s) (t := closure t)
  exact Set.eq_empty_of_subset_empty (hs ▸ interior_maximal h1 isOpen_interior)
```
(untested)

Comment (mcallisto) [reply Mathlib/Topology/GDelta/Basic.lean]: @acmepjz thanks, tested, it works. Maybe I would write  `at hs ht ⊢` instead of `at ht ⊢`, just to have more symmetry; otherwise `hs` stays folded and the last line relies on `▸` unfolding it implicitly, which was a kind of a wart.

**Comment by pechersky** [comment]
maintainer merge

**Comment by wwylele** [comment]
@Ruben-VandeVelde it looks like CI doesn't like your title change 😄 
Maybe it should be "feat: `IsNowhereDense.union`"? (I vaguely remember CI has special case with code quote)

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
